US05401378
4-Oxo-10-phenyl-5-oxa-8,9-dithiadecanoic acid
A mixture of 5-phenyl-3,4-dithiapentanol (832 mg, 4.15 mmol), succinic anhydride (415 mg, 4.15 mmol) and 4-dimethylaminopyridine (25 mg) in dry tetrahydrofuran (20 ml) was refluxed under nitrogen overnight. The mixture was then evaporated to dryness and used without further purification.

reactant | 5-phenyl-3,4-dithiapentanol | 4.15 mmol, 832 mg | C1(=CC=CC=C1)CSSCCO | C9H12OS2
reactant | succinic anhydride | 4.15 mmol, 415 mg | C1(CCC(=O)O1)=O | C4H4O3
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Oxo-10-phenyl-5-oxa-8,9-dithiadecanoic acid | O=C(CCC(=O)O)OCCSSCC1=CC=CC=C1 | C13H16O4S2
